US08497271B2
Part B. 4-((R)-1-Amino-2-hydroxy-ethyl)-3-methoxy-phenol
A mixture of [(R)-1-(4-Benzyloxy-2-methoxy-phenyl)-2-hydroxy-ethyl]-carbamic acid benzyl ester (1.2 g, 2.96 mmol) and Pd/C (120 mg) in MeOH/EtOAc (5:1, 10 mL) was stirred under H2 (1 atm) for overnight. The mixture was filtered and the filtrate was concentrated to give the titled compound (542 mg, 100%).

reactant | [(R)-1-(4-Benzyloxy-2-methoxy-phenyl)-2-hydroxy-ethyl]-carbamic acid benzyl ester | 2.96 mmol, 1.2 g | C(C1=CC=CC=C1)OC(N[C@@H](CO)C1=C(C=C(C=C1)OCC1=CC=CC=C1)OC)=O | C24H25NO5
solvent | MeOH EtOAc | 10 mL | CO.CCOC(=O)C
catalyst | Pd/C | 120 mg | [Pd] | Pd
product | 4-((R)-1-Amino-2-hydroxy-ethyl)-3-methoxy-phenol | 542 mg, 100% | N[C@@H](CO)C1=C(C=C(C=C1)O)OC | C9H13NO3
